US08466296B2
C. Preparation of (2R)-2-{[2-(benzyloxy)-4-nitrophenoxy]methyl}oxirane
A 500 mL round bottomed flask equipped with a nitrogen inlet and a magnetic stir bar is charged with: 2-(benzyloxy)-4-nitrophenol (10.00 g, 40.8 mmol), potassium carbonate (7.05 g, 51.0 mmol), (R)-(−)-glycidyl tosylate (10.00 g, 43.8 mmol) and DMF (65 mL). The mixture is immersed in an oil bath heated to 60° C. and stirred for 18 h. The solution is allowed to cool to rt, then water (200 mL) is slowly added. The resulting suspension is stirred for 2 h, the precipitate is collected by vacuum filtration and the filter cake is washed with water (25 mL). The cake is dried under suction to yield 10.70 g (87%) of the title compound as a light yellow powder. LCMS (Standard Method): 2.74 min, 302 (M+H)+. 1H NMR (300 MHz, CDCl3) δ 7.89 (dd, J=2.6, 9.0 Hz, 1H), 7.81 (d, J=2.6 Hz, 1H), 7.48-7.34 (m, 5H), 6.98 (d, J=8.8 Hz, 1H), 5.19 (s, 2H), 4.43 (dd, J=2.7, 11.5 Hz, 1H), 4.08 (dd, J=5.8, 11.5 Hz, 1H), 3.43-3.39 (m, 1H), 2.95-2.91 (m, 1H), 2.81-2.78 (m, 1H).

reactant | 2-(benzyloxy)-4-nitrophenol | 40.8 mmol, 10.00 g | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)[N+](=O)[O-])O | C13H11NO4
reactant | potassium carbonate | 51.0 mmol, 7.05 g | C([O-])([O-])=O.[K+].[K+]
reactant | (R)-(−)-glycidyl tosylate | 43.8 mmol, 10.00 g | S(=O)(=O)(OC[C@H]1CO1)C1=CC=C(C)C=C1 | C10H12O4S
reactant | DMF | 65 mL | CN(C)C=O | C3H7NO
solvent | water | 200 mL | O | H2O
product | (2R)-2-{[2-(benzyloxy)-4-nitrophenoxy]methyl}oxirane | 10.70 g, 87% | C(C1=CC=CC=C1)OC1=C(OC[C@@H]2OC2)C=CC(=C1)[N+](=O)[O-] | C16H15NO5
